US05968985
The mixture of 3,5-difluorophenyl-dihydroxyborane (3 g), 3-iodobenzoic acid (3.37 g), sodium carbonate (4.31 g) and palladium(II) acetate (0.030 g) in water (60 ml) was stirred at room temperature for six hours. The reaction mixture was filtered and was washed with ether (30 ml) twice. The aqueous layer was adjusted to pH 2 with 6N hydrochloric acid. The crystalline was collected, washed with water and dried to afford 3-(3,5-difluorophenyl)benzoic acid.

reactant | 3,5-difluorophenyl-dihydroxyborane | 3 g | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | 3-iodobenzoic acid | 3.37 g | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | sodium carbonate | 4.31 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 60 ml | O | H2O
catalyst | palladium(II) acetate | 0.030 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(3,5-difluorophenyl)benzoic acid | FC=1C=C(C=C(C1)F)C=1C=C(C(=O)O)C=CC1 | C13H8F2O2
